US09314464B2
Intermediate. (2-Methylthio-pyrimidin-4-yl)-acetonitrile
To a solution of Intermediate cyano-(2-methylthio-pyrimidin-4-yl)-acetic acid tert-butyl ester (5.3 g, 20 mmol) in anhydrous toluene (100 mL) was added p-toluenesulfonic acid (800 mg). The mixture was heated to reflux for 8 h, cooled to room temperature and extracted with ethyl acetate. The organic layer was washed with 1N aqueous sodium hydroxide solution and brine, dried over sodium sulfate, filtered and concentrated. The crude product was purified by silica gel chromatography (3:1 hexanes/ethyl acetate eluant) to afford the title compound: 1H NMR 400 MHz (CDCl3) δ 8.56 (d, 1H), 7.12 (d, 1H), 3.84 (s, 2H), 2.57 (s, 3H); MS m/z: 166.0 (M+1).

reactant | cyano-(2-methylthio-pyrimidin-4-yl)-acetic acid tert-butyl ester | 20 mmol, 5.3 g | C(C)(C)(C)OC(C(C1=NC(=NC=C1)SC)C#N)=O | C12H15N3O2S
reactant | p-toluenesulfonic acid | 800 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | (2-Methylthio-pyrimidin-4-yl)-acetonitrile | CSC1=NC=CC(=N1)CC#N | C7H7N3S
